US07429581B2
(iv) 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-furan-2-yl-1H-pyrazole-3-carboxylic acid [4-(3-oxo-morpholin-4-yl)-phenyl]-amide
To 100 mg 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-furan-2-yl-1H -pyrazole-3-carboxylic acid in 2 ml DCM and 0.1 ml NEt3, 62 mg 4-(4-Amino-phenyl)-morpholin-3-one and 67 mg BOP-Cl were added at RT and the mixture was stirred for 16 h. The mixture was was concentrated under reduced pressure and the residue was purified by preparative HPLC (C18 reverse phase column, elution with a H2O/MeCN gradient with 0.1% TFA). The fractions containing the product were evaporated and lyophilized to yield a white solid.

reactant | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-furan-2-yl-1H -pyrazole-3-carboxylic acid | 100 mg | ClC1=CC=C(S1)C1=CC(=NO1)CN1N=C(C=C1C=1OC=CC1)C(=O)O | C16H10ClN3O4S
reactant | 4-(4-Amino-phenyl)-morpholin-3-one | 62 mg | NC1=CC=C(C=C1)N1C(COCC1)=O | C10H12N2O2
reactant | BOP-Cl | 67 mg | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
solvent | NEt3 | 0.1 ml | CCN(CC)CC | C6H15N
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-furan-2-yl-1H-pyrazole-3-carboxylic acid [4-(3-oxo-morpholin-4-yl)-phenyl]-amide | O=C1N(CCOC1)C1=CC=C(C=C1)NC(=O)C1=NN(C(=C1)C=1OC=CC1)CC1=NOC(=C1)C=1SC(=CC1)Cl | C26H20ClN5O5S
